US06391874B1
N-(2-Methylthioethyl )-trifluoroacetamide
Trifluoroacetic anhydride (17 ml, 25.28 g, 120.6 mmol) was added dropwise to a solution of 2-methylthioethylamine (10.0 g, 109.7 mmol) and triethylamine (16.8 ml, 12.2 g, 120.5 mmol) in anhydrous dichloromethane (50 ml) cooled to 0° C. using an ice bath. On completion of the addition, the reaction was stirred at room temperature under a nitrogen atmosphere for 18 hours. Water (200 ml) was added, the layers were separated, and the aqueous was extracted with further dichloromethane (100 ml). The combined dichloromethane solutions were dried (MgSO4), and concentrated in vacuo to give the title compound as a yellow oil (19.0 g, 109.7 mmol, 100%); δH CDCl3 6.8 (1H,br s), 3.59 (2H,q), 2.72 (2H,t), 2.13 (3H,s).

reactant | Trifluoroacetic anhydride | 120.6 mmol, 17 ml, 25.28 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-methylthioethylamine | 109.7 mmol, 10.0 g | CSCCN | C3H9NS
reactant | triethylamine | 120.5 mmol, 16.8 ml, 12.2 g | C(C)N(CC)CC | C6H15N
reactant | Water | 200 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(2-Methylthioethyl )-trifluoroacetamide | 109.7 mmol, 19.0 g, 100% | CSCCNC(C(F)(F)F)=O | C5H8F3NOS
